US04457875
4,5-dimethoxy 2-nitro chlorobenzene:
Into a triple-necked flask of one liter, provided with a magnetic stirring system, with a thermometer and a dropping funnel, were introduced successively 143.9 g (0.83 mole) of 3,4-dimethoxy chlorobenzene, then drop by drop 166 cm3 of nitric acid (d=1.38), without the temperature exceeding 25° C. When the addition was ended, the reaction mixture was allowed to stand 1.5 h and then filtered.

reactant | 3,4-dimethoxy chlorobenzene | 0.83 mole, 143.9 g | COC=1C=C(C=CC1OC)Cl | C8H9ClO2
reactant | nitric acid | 166 cm3 | [N+](=O)(O)[O-] | HNO3
product | 4,5-dimethoxy 2-nitro chlorobenzene | COC1=CC(=C(C=C1OC)Cl)[N+](=O)[O-] | C8H8ClNO4
